### PR TITLE
Add lemmas in EReal.lean

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
Add coe_add_mul_of_nonneg, toReal_eq_zero_iff and nsmul_eq_mul

### CODE REVIEW

File: TestingLowerBounds/ForMathlib/EReal.lean [hunk 1]
```diff
@@ -200,4 +205,15 @@ lemma toReal_nonpos {x : EReal} (hx : x ≤ 0) : x.toReal ≤ 0 := by
     exact EReal.coe_nonpos.mp hx
   · norm_num
 
+lemma toReal_eq_zero_iff {x : EReal} : x.toReal ≠ 0 ↔ x ≠ 0 ∧ x ≠ ⊤ ∧ x ≠ ⊥ := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/EReal.lean]:
```suggestion
lemma toReal_ne_zero_iff {x : EReal} : x.toReal ≠ 0 ↔ x ≠ 0 ∧ x ≠ ⊤ ∧ x ≠ ⊥ := by
```

Comment (RemyDegenne) [reply TestingLowerBounds/ForMathlib/EReal.lean]: And I guess you could also add a similar lemma `toReal_eq_zero_iff`.

**Review by RemyDegenne — APPROVED** [review]
